US07405201B2
Benzyl (S)-2-[(S)-2-(tert-butoxycarbonyl-methyl-amino)-propanoylamino]-propionate
4.81 g (22.3 mmol) of L-alanine benzyl ester hydrochloride, 3.32 g (24.6 mmol) of HOBt and 4.92 g (25.7 mmol) of EDC are introduced into 10 ml of anhydrous dimethylformamide under argon. At 0° C., 4.54 g (22.3 mmol) of N-Boc-N-methyl-L-alanine and 14.7 ml (133.9 mmol) of N-methylmorpholine are added, and the reaction mixture is stirred overnight with slow warming to RT. The reaction solution is treated with water and toluene and extracted with shaking. The aqueous phase is extracted twice with toluene, and the combined organic phases are dried over sodium sulfate and concentrated to dryness after filtration. The product is purified chromatographically by silica gel chromatography on about 1500 ml of silica gel using MeOH/dichloromethane 10/1. 7.9 g (97% of th.) of the product are obtained.

reactant | L-alanine benzyl ester hydrochloride | 22.3 mmol, 4.81 g | Cl.C(C1=CC=CC=C1)OC([C@@H](N)C)=O
reactant | HOBt | 24.6 mmol, 3.32 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 25.7 mmol, 4.92 g
reactant | N-Boc-N-methyl-L-alanine | 22.3 mmol, 4.54 g | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | N-methylmorpholine | 133.9 mmol, 14.7 ml | CN1CCOCC1 | C5H11NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Benzyl (S)-2-[(S)-2-(tert-butoxycarbonyl-methyl-amino)-propanoylamino]-propionate | C(C)(C)(C)OC(=O)N([C@H](C(=O)N[C@H](C(=O)OCC1=CC=CC=C1)C)C)C | C19H28N2O5
